US07015218B1
5-Amino-2-[4-(N-2-hydroxyethyl-N-methylamino)piperidin-1-yl]benzonitrile
According to Tetrahedron, vol. 38, No. 3, p. 413 (1982) and using 5-nitro-2-(4-oxopiperidino) benzonitrile and N-methylethanolamine, 2-[4-(N-2-hydroxyethyl-N-methylamino) piperidin-1-yl]-5-nitrobenzonitrile was synthesized, which was subjected to reduction according to Starting Material Synthesis Example 40 to give the title compound.

reactant | 5-nitro-2-(4-oxopiperidino) benzonitrile | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1CCC(CC1)=O | C12H11N3O3
reactant | N-methylethanolamine | CNCCO | C3H9NO
reactant | 2-[4-(N-2-hydroxyethyl-N-methylamino) piperidin-1-yl]-5-nitrobenzonitrile | OCCN(C)C1CCN(CC1)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C15H20N4O3
product | 5-Amino-2-[4-(N-2-hydroxyethyl-N-methylamino)piperidin-1-yl]benzonitrile | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N(C)CCO | C15H22N4O
